US07253286B2
Methyl 4-(((2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-ylidene)methyl)amino)-2-hydroxybenzoate
After adding Meldrum acid (7.2 g, 50 mmol), triethyl orthoformate (50 ml) and 2-propanol (50 ml) to the publicly known compound methyl 4-amino-2-hydroxybenzoate (7.59 g, 45.4 mmol), the mixture was stirred at 100° C. for 1 hour. Upon cooling to room temperature, the precipitated crystals were filtered out, washed with diethyl ether and blow-dried to obtain the title compound (13.98 g, 43.5 mmol, 95.8%) as white crystals.

reactant | Meldrum acid | 50 mmol, 7.2 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | triethyl orthoformate | 50 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | methyl 4-amino-2-hydroxybenzoate | 45.4 mmol, 7.59 g | NC1=CC(=C(C(=O)OC)C=C1)O | C8H9NO3
solvent | 2-propanol | 50 ml | CC(C)O | C3H8O
product | Methyl 4-(((2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-ylidene)methyl)amino)-2-hydroxybenzoate | 43.5 mmol, 13.98 g, 95.8% | CC1(OC(C(C(O1)=O)=CNC1=CC(=C(C(=O)OC)C=C1)O)=O)C | C15H15NO7
